US06693123B2
4-Nitro-2-phenylbenzoic acid (50.0 g, 205 mmol) and 3-hydroxy1,2,3-benzotriazin-4(3H)-one (36.89 g, 226 mmol) were dissolved in 500 mL DMF. 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (47.3 g, 247 mmol) and methionine methyl ester hydrochloride (53.37 g, 267 mmol) were added followed by triethylamine (31.5 mL, 226 mmol). Additional triethylamine was added to raise the pH to 6˜7. After 1 hour at ambient temperature, the reaction mixture was concentrated to 200 mL, diluted with 500 mL ethyl acetate, washed with 1 M HCl, 5% NaHCO3, and brine, and dried over Na2SO4 to provide (4-nitro-2-phenylbenzoyl)methionine methyl ester which was used directly without further purification. MS m/e 389 (M+H)+. 1H NMR (CDCl3, 300 MHz) δ 1.78 (m, 2H), 2.01 (s, 3H), 2.60 (m, 2H), 3.69 (s, 3H), 4.69 (m, 1H), 6.02 (d, J=8 Hz, 1H), 7.48,(m, 5H), 7.85 (m, 1H), 8.27 (m, 2H).

reactant | 4-Nitro-2-phenylbenzoic acid | 205 mmol, 50.0 g | [N+](=O)([O-])C1=CC(=C(C(=O)O)C=C1)C1=CC=CC=C1 | C13H9NO4
reactant | 3-hydroxy1,2,3-benzotriazin-4(3H)-one | 226 mmol, 36.89 g | ON1N=NC2=C(C1=O)C=CC=C2 | C7H5N3O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 247 mmol, 47.3 g | Cl.CN(CCCN=C=NCC)C
reactant | methionine methyl ester hydrochloride | 267 mmol, 53.37 g | Cl.COC([C@@H](N)CCSC)=O
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 226 mmol, 31.5 mL | C(C)N(CC)CC | C6H15N
product | (4-nitro-2-phenylbenzoyl)methionine methyl ester | COC([C@@H](NC(C1=C(C=C(C=C1)[N+](=O)[O-])C1=CC=CC=C1)=O)CCSC)=O | C19H20N2O5S
